US06191170B1
2,3,4-Trimethoxybenzenesulfonyl chloride is synthesized by reaction of pyrogallol trimethyl ether with chlorosulfonic acid in chloroform at 0° C. according to the procedure described in G. Pifferi and R. Monguzzi, Journal of Pharmaceutical Sciences, 1973, 62, 1393.

reactant | pyrogallol trimethyl ether | COC1=C(OC)C(OC)=CC=C1 | C9H12O3
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,3,4-Trimethoxybenzenesulfonyl chloride | COC1=C(C=CC(=C1OC)OC)S(=O)(=O)Cl | C9H11ClO5S
